US07534797B2
7-(8-Chloro-3-methyl-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline
N-[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-acetamide (273.0 mg, 0.702 mmol) was dissolved in 20 mL of POCl3. The reaction was heated to 80° C. for 24 h. The excess POCl3 was removed in vacuo. The residue was worked up by basifying with cold 2.0 M NH3 in IPA followed by the addition of CH2Cl2 and water. The aqueous layer was washed with CH2Cl2 (2×). The organic layers where combined, dried over sodium sulfate, filtered and concentrated in vacuo to yield a light brown oil; 1H NMR (400 MHz, CDCl3) δ 2.77 (s, 3H), 7.41-7.59 (m, 4H), 7.70-7.72 (m, 1H), 7.88-7.93 (m, 3H), 8.19-8.28 (brm, 3H), 8.55 (brs, 1H); MS (ES+): 370.96 (M+1), 372.97 (M+3), 373.98 (M+4).

reactant | N-[(3-Chloro-pyrazin-2-yl)-(2-phenyl-quinolin-7-yl)-methyl]-acetamide | 0.702 mmol, 273.0 mg | ClC=1C(=NC=CN1)C(NC(C)=O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C22H17ClN4O
solvent | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-(8-Chloro-3-methyl-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C | C22H15ClN4
